US04603220
Analogously to Example 1, 300 g of p-tert-butyltoluene (93.3% pure) was oxidized in the presence of 50 g of acetic acid, 3 g of cobalt acetate tetrahydrate and 1.5 g of sodium bromide at 25 bar and 115°-135° C. by passing air through it to produce a gas exhaust rate of 1.5 liters per minute. The oxygen absorption ended after a reaction period of 300 minutes; then 450 g of 74.5% acetic acid was added, the dilute reaction mixture was cooled with stirring to room temperature and filtered, and the crystallizate was washed with 450g of 70% acetic acid. 311.5 g of p-tert-butylbenzoic acid resulted, in the form of white crystals of a purity of 99.6 percent by weight as determined by gas chromatography, with a terephthalic acid content of 0.16%.

reactant | p-tert-butyltoluene | 300 g | C(C)(C)(C)C1=CC=C(C=C1)C | C11H16
reactant | acetic acid | 450 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 50 g | C(C)(=O)O | C2H4O2
catalyst | cobalt acetate tetrahydrate | 3 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | sodium bromide | 1.5 g | [Br-].[Na+]
product | p-tert-butylbenzoic acid | 311.5 g | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
